US08217043B2
2-(S)-[(6-Chloro-4-hydroxy-2-oxo-1-pyridin-2-ylmethyl-1,2-dihydro-pyrrolo[1,2-b]pyridazine-3-carbonyl)-amino]-propionic acid
Prepared according to the reaction condition used in Example 19 step a) from 6-chloro-4-hydroxy-2-oxo-1-pyridin-2-ylmethyl-1,2-dihydro-pyrrolo[1,2-b]pyridazine-3-carboxylic acid methyl ester, L-alanine and NaOMe. ESI (m/z): 391 (M+H)+.

reactant | 6-chloro-4-hydroxy-2-oxo-1-pyridin-2-ylmethyl-1,2-dihydro-pyrrolo[1,2-b]pyridazine-3-carboxylic acid methyl ester | COC(=O)C1=C(C=2N(N(C1=O)CC1=NC=CC=C1)C=C(C2)Cl)O | C15H12ClN3O4
reactant | L-alanine | N[C@@H](C)C(=O)O | C3H7NO2
reactant | NaOMe | C[O-].[Na+]
product | 2-(S)-[(6-Chloro-4-hydroxy-2-oxo-1-pyridin-2-ylmethyl-1,2-dihydro-pyrrolo[1,2-b]pyridazine-3-carbonyl)-amino]-propionic acid | ClC=1C=C2N(N(C(C(=C2O)C(=O)N[C@H](C(=O)O)C)=O)CC2=NC=CC=C2)C1 | C17H15ClN4O5
